US06166028
[4-(1-Azido-ethyl)-3-chloro-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester
To a solution of [3-chloro-4-(1-hydroxy-ethyl)-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester (1.25 g) in tetrahydrofuran (20 mL) at 0° C. under an atmosphere of argon is added triphenyl-phosphine (2.6 g), hydrazoic acid (approximately 2.5 molar equivalents in dichloromethane, prepared by the method of Fieser and Fieser, Reagents for Organic Synthesis, Vol. 1, pg. 446; Wiley, New York) and diethyl azodicarboxylate (1.72 g). After approximately 10 minutes the solvent is removed under reduced pressure and the residue is chromatographed over silica gel (5% ethyl acetate in hexanes is used as the eluant) to provide the desired product as a colorless oil.

reactant | [3-chloro-4-(1-hydroxy-ethyl)-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester | 1.25 g | C[Si](CCOC(NC1=CC(=C(C=C1)C(C)O)Cl)=O)(C)C | C14H22ClNO3Si
reactant | triphenyl-phosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
reactant | diethyl azodicarboxylate | 1.72 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | [4-(1-Azido-ethyl)-3-chloro-phenyl]-carbamic acid 2-trimethylsilanyl-ethyl ester | C[Si](CCOC(NC1=CC(=C(C=C1)C(C)N=[N+]=[N-])Cl)=O)(C)C | C14H21ClN4O2Si
